US08003785B2
To a solution of 0.5 g (2.3 mmole) of 4-amino-3-trifluoromethoxy-benzoic acid, 0.31 g (2.8 mmole) of 4-amino-1-methyl-piperidine, 1.2 mL (69 mmole) of ethyldiisopropyl amine and 4 mL of dimethylformamide was added the solution of 1.2 g (2.8 mmole) of 1-(di-1-pyrrolidinylmethylene)-1H-benzotriazolium 3-oxide hexafluorophosphate in 2 mL of dimethylformamide. The mixture was stirred at room temperature for 2 hour, then diluted with ice water and saturated sodium carbonate. The mixture was extracted with dichloromethane twice. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-60:40) gave 0.7 g of 4-amino-N-(1-methyl-piperidin-4-yl)-3-trifluoromethoxy-benzamide as a white solid.

reactant | 4-amino-3-trifluoromethoxy-benzoic acid | 2.3 mmole, 0.5 g | NC1=C(C=C(C(=O)O)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | 4-amino-1-methyl-piperidine | 2.8 mmole, 0.31 g | NC1CCN(CC1)C | C6H14N2
reactant | ethyldiisopropyl amine | 69 mmole, 1.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-amino-N-(1-methyl-piperidin-4-yl)-3-trifluoromethoxy-benzamide | 0.7 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC(F)(F)F | C14H18F3N3O2
